US07947714B2
To a flask in an ice-bath was added 1-(propylsulfonyl)piperidin-4-one (5.0 g, 24.4 mmol), trimethylsilylcyanide (3.25 mL, 24.2 mmol) and diethyl ether (3 mL) followed by addition of zinc iodide (0.005 g). This gave a yellow suspension which turned to an orange solution after 20 min stirring at room temperature. To the solution was added a solution of tert-butyl piperazine-1-carboxylate (4.54 g, 24.4 mmol) in methanol (35 mL). The solution was then refluxed overnight. The reaction was cooled and more trimethylsilylcyanide (0.5 eq) and zinc iodide (0.005 g) were added. The reaction was heated at reflux overnight and no starting material remained by TLC. The reaction mixture was evaporated to dryness and the product crystallised from ethyl acetate/iso-hexane to give tert-butyl 4-[4-cyano-1-(propylsulfonyl)piperidin-4-yl]piperazine-1-carboxylate as an off-white crystalline solid. 1H NMR (360 MHz, CDCl3): δ 3.80 (d, J=13.5 Hz, 2 H); 3.48 (t, J=4.9 Hz, 4 H); 3.15-3.09 (m, 2 H); 2.93-2.89 (m, 2 H); 2.60 (t, J=4.9 Hz, 4 H); 2.22 (d, J=13.4 Hz, 2 H); 1.91-1.81 (m, 4 H); 1.47 (s, 9 H); 1.07 (t, J=7.4 Hz, 3 H).

reactant | 1-(propylsulfonyl)piperidin-4-one | 24.4 mmol, 5.0 g | C(CC)S(=O)(=O)N1CCC(CC1)=O | C8H15NO3S
reactant | trimethylsilylcyanide | 24.2 mmol, 3.25 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | diethyl ether | 3 mL | C(C)OCC | C4H10O
reactant | tert-butyl piperazine-1-carboxylate | 24.4 mmol, 4.54 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | trimethylsilylcyanide | 0.5 eq | C[Si](C)(C)C#N | C4H9NSi
solvent | methanol | 35 mL | CO | CH4O
catalyst | zinc iodide | 0.005 g | [I-].[Zn+2].[I-]
catalyst | zinc iodide | 0.005 g | [I-].[Zn+2].[I-]
product | tert-butyl 4-[4-cyano-1-(propylsulfonyl)piperidin-4-yl]piperazine-1-carboxylate | C(#N)C1(CCN(CC1)S(=O)(=O)CCC)N1CCN(CC1)C(=O)OC(C)(C)C | C18H32N4O4S
